US06495581B1
A mixture of 4-chloromethyl-5-methyl-2-phenyloxazole (3.41 g), 3-(4-hydroxyphenyl)propanol (2.50 g), potassium carbonate (3.40 g) and N,N-dimethylformamide (25 ml) was stirred for 14 hours at 60° C. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4), and then concentrated. The residue was subjected to column chromatography on silica gel, and 3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propanol (4.46 g, yield 84%) was obtained from a fraction eluted with ethyl acetate-hexane (1:1, v/v) as crystals. Recrystallization from ethyl acetate-hexane gave colorless crystals. m.p. 70-71° C.

reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 3.41 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | 3-(4-hydroxyphenyl)propanol | 2.50 g | OC1=CC=C(C=C1)CCCO | C9H12O2
reactant | potassium carbonate | 3.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propanol | 4.46 g, yield 84% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCO | C20H21NO3
